US05962682
2.0 g of 4-(3-methoxy-phenoxy)-3-nitro-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzonitrile were dissolved in ethanol (60 ml), a solution of tin dichloride dihydrate (4.5 g) in 37% HCl (12 ml) was added dropwise thereto at room temperature and the mixture was subsequently stirred at room temperature for 12 hours. The mixture was poured on to ice-water, adjusted to pH 7 and the product was extracted with ethyl acetate. After usual processing of the organic phase there was obtained 3-amino-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzonitrile as a white solid.

reactant | 4-(3-methoxy-phenoxy)-3-nitro-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzonitrile | 2.0 g | COC=1C=C(OC2=C(C=C(C#N)C=C2OCCOC2OCCCC2)[N+](=O)[O-])C=CC1 | C21H22N2O7
reactant | tin dichloride dihydrate | 4.5 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | HCl | 12 ml | Cl | ClH
product | 3-amino-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzonitrile | NC=1C=C(C#N)C=C(C1OC1=CC(=CC=C1)OC)OCCO | C16H16N2O4
